US04771051
3-(5-ethyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-7-chloro-imidazo(1,5-a)quinazoline.
M.p. 196°-198° C. by reaction between 3-methyl-6-chloro-1,2,3,4-tetrahydro-2,4-dioxoquinazoline and 5-ethyl-3-isocyanomethyl-1,2,4-oxadiazole.

reactant | 3-methyl-6-chloro-1,2,3,4-tetrahydro-2,4-dioxoquinazoline | CN1C(NC2=CC=C(C=C2C1=O)Cl)=O | C9H7ClN2O2
reactant | 5-ethyl-3-isocyanomethyl-1,2,4-oxadiazole | C(C)C1=NC(=NO1)C[N+]#[C-] | C6H7N3O
product | 3-(5-ethyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-7-chloro-imidazo(1,5-a)quinazoline | C(C)C1=NC(=NO1)C=1N=CN2C1N(C(C1=CC(=CC=C21)Cl)=O)C | C15H12ClN5O2
